US04775757
5-Acetoxy-7-methylthieno[2,3-c]pyridine
A solution of 7-methylthieno[2,3-c]pyridin-5-ol (5.0 g, 30.3 mmol) and concentrated sulfuric acid (3 drops) in acetic anhydride (50 ml) was stirred at room temperature for 16 hours. The mixture was poured into ice water (300 ml), neutralized with NaHCO3, and was extracted with CH2Cl2. The organic layer was washed with a saturated solution of NaHCO3, dried over MgSO4, treated with activated charcoal and evaporated in vacuo to give the product (3.9 g, 62% yield) as an amber oil; IR (neat) 3090, 1770 and 1585 cm-1 ; mass spectrum m/z 207 (M+); 1H NMR (CDCl3) δ2.35 (s, 3H, COCH3), 2.75 (s, 3H, CH3), 7.28 (d superimposed on s, J=5 Hz, 2H, thiophene-H, Ar-H), 7.67 (d, J=5 Hz, 1H, thiophene-H).

reactant | 7-methylthieno[2,3-c]pyridin-5-ol | 30.3 mmol, 5.0 g | CC=1N=C(C=C2C1SC=C2)O | C8H7NOS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 5-Acetoxy-7-methylthieno[2,3-c]pyridine | 3.9 g, 62% yield | C(C)(=O)OC=1C=C2C(=C(N1)C)SC=C2 | C10H9NO2S
